US06710069B2
Preparation of N-(2-{[1-(Phenylsulfonyl)-1H-indol-4-yl]oxy}ethyl)tetrahydro-2H-pyran-4-amine hydrochloride
A mixture of 2-{[1-(phenylsulfonyl)-1H-indole-4-yl]oxy}ethylamine (0.316 g, 1.0 mmol), tetrahydro-4H-pyran-4-one (0.09 ml, 1.00 mmol) and sodium triacetoxyborohydride (0.312 g, 1.4 mmol) in 1,2-dichloroethane is treated with acetic acid (0.06 ml) at room temperature, stirred under nitrogen for 18 hr, quenched with concentrated aqueous NH4OH and diluted with methylene chloride and water. The aqueous layer is separated and extracted with methylene chloride. The organic layer and extracts are combined, washed with saturated NaCl, dried over Na2SO4, and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/MeOH/NH4OH: 9/1/0.05) to afford the free amine of the title product as a clear oil, 0.36 g (90%).

reactant | 2-{[1-(phenylsulfonyl)-1H-indole-4-yl]oxy}ethylamine | 1.0 mmol, 0.316 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN | C16H16N2O3S
reactant | tetrahydro-4H-pyran-4-one | 1.00 mmol, 0.09 ml | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 1.4 mmol, 0.312 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.06 ml | C(C)(=O)O | C2H4O2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N-(2-{[1-(Phenylsulfonyl)-1H-indol-4-yl]oxy}ethyl)tetrahydro-2H-pyran-4-amine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCNC1CCOCC1 | InChI=1S/C21H24N2O4S.ClH/c24-28(25,18-5-2-1-3-6-18)23-13-9-19-20(23)7-4-8-21(19)27-16-12-22-17-10-14-26-15-11-17;/h1-9,13,17,22H,10-12,14-16H2;1H
